US06124281
(f) Ethyl 3-phenyl-4-(4-chloro-2-aminobenzoyl)-1H-pyrazole-5- carboxylate
A suspension of nickel boride (3.56 g) and 1N HCl (16 mL) in methanol (65 mL) was added to ethyl 3-phenyl-4-(4-chloro-2-nitrobenzoyl)-1H-pyrazole-5-carboxylate (1.5 g, 3.7 mmol) and the mixture heated to 60° C. for 18 hours. The reaction mixture was filtered and the filtrate concentrated via rotovap to a green solid (2.38 g). The solid was dissolved in ethyl acetate (100 mL) and extracted with water (2×50 mL) and brine (1×50 mL). The organic layer was dried over sodium sulfate and concentrated to a dark green oil (1.5 g) which was washed with a small amount of hexanes to yield the title compound as a yellow solid (0.855 g, 62%).

reactant | HCl | 1N, 16 mL | Cl | ClH
reactant | ethyl 3-phenyl-4-(4-chloro-2-nitrobenzoyl)-1H-pyrazole-5-carboxylate | 3.7 mmol, 1.5 g | C1(=CC=CC=C1)C1=NNC(=C1C(C1=C(C=C(C=C1)Cl)[N+](=O)[O-])=O)C(=O)OCC | C19H14ClN3O5
solvent | methanol | 65 mL | CO | CH4O
catalyst | nickel boride | 3.56 g | B#[Ni]
product | Ethyl 3-phenyl-4-(4-chloro-2-aminobenzoyl)-1H-pyrazole-5- carboxylate | 0.855 g, 62% | C1(=CC=CC=C1)C1=NNC(=C1C(C1=C(C=C(C=C1)Cl)N)=O)C(=O)OCC | C19H16ClN3O3
